US06680316B1
Preparation of 5,6-bis(4-Methoxyphenyl)-2-cyclopropylmethyl-4-ethoxycarbonyl-2H-pyridazin-3-one
Using 5,6-bis(4-methoxyphenyl)-4-ethoxycarbonyl-2H-pyridazin-3-one and (chloromethyl)cyclopropane as starting materials, the procedures of Example 19 were repeated likewise, whereby the title compound was obtained in a yield of 89.1%.

reactant | 5,6-bis(4-methoxyphenyl)-4-ethoxycarbonyl-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=C(C(NN=C1C1=CC=C(C=C1)OC)=O)C(=O)OCC | C21H20N2O5
reactant | (chloromethyl)cyclopropane | ClCC1CC1 | C4H7Cl
product | 5,6-bis(4-Methoxyphenyl)-2-cyclopropylmethyl-4-ethoxycarbonyl-2H-pyridazin-3-one | yield of 89.1% | COC1=CC=C(C=C1)C1=C(C(N(N=C1C1=CC=C(C=C1)OC)CC1CC1)=O)C(=O)OCC | C25H26N2O5
